***********************************************************
* EDALIB SAMPLE LIBRARY V4.1.0                            *
* SPICE2G6                                                *
***********************************************************
* CREATION DATE: 04/16/1999				  *
***********************************************************
* LICENCE-INFORMATION:					  *
*							  *
* THESE SPICE SIMULATION MODELS MAY BE USED AND           *
* DISTRIBUTED FREELY. THEY ARE NOT ALTERED IN ANY WAY,    *
* RESOLD OR INCLUDED IN ANY OTHER PACKAGE FOR RESALE.     *
* DO NOT REMOVE THIS LICENCE-INFORMATION FROM THE MODELS  *
*							  *
* THE MODELS OR MACROS IN THIS LIBRARY ARE PROVIDED "AS   *
* IS, WHERE IS, AND WITH NO WARRANTY OF ANY KIND EITHER   *
* EXPRESSED OR IMPLIED, INCLUDING BUT NOT LIMITED TO ANY  *
* IMPLIED WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A *
* PARTICULAR PURPOSE."					  *
*							  *
* IN NO EVENT THE MANUFACTURER OR COM PRO BE LIABLE FOR   *
* SPECIAL, COLLATERAL, INCIDENTAL OR CONSEQUENTIAL        *
* DEMAGES IN CONNECTION WITH OR ARISING OUT OF THE USE OF *
* THIS LIBRARY THE MANUFACTURER RESERVES THE RIGHT TO     *
* MAKE CHANGES TO THE PRODUCT AND ISD TO THE MODELS/      *
* MACROS WITHOUT PRIOR NOTICE.	                          *
*							  *
* LIFE SUPPORT POLICY                                     *
* THE MODELS AND SUBCIRCUITS ARE NOT AUTHORIZED FOR USE   *
* AS CRITICAL COMPONENTS IN LIFE-SUPPORT DEVICES OR       *
* SYSTEMS AS WELL AS IN DEVICES AND SYSTEMS WHICH ARE     *
* WORKING IN DANGEROUS ENVIRONMENT OR DRIVING DANGEROUS.  *
*							  *
* THE USE OF MACROMODELS CAN BE A USEFUL TOOL IN          *
* EVALUATING DEVICE PERFORMANCE IN VARIOUS APPLICATIONS.  *
* THEY CANNOT MODEL EXACT DEVICE PERFORMANCES UNDER ALL   *
* CONDITIONS, NOR ARE THEY INTENDED TO REPLACE BREAD-     *
* BOARDING FOR FINAL VERIFICATION.                        *
*							  *
* THE LIBRARIES ARE PROTECTED UNDER THE GERMAN AND        *
* EUROPEAN COPYRIGHT LAWS                                 *
*							  *
* COM PRO HEREBY GRANTS THE LICENSEE THE NON-EXCLUSIVE    *
* PERMISSION TO USE THIS MODEL-LIBRARIES.                 *
*							  *
***********************************************************
*							  *
* (c) COM PRO HARD- & SOFTWARE GMBH                       *
*     REINSBURGSTRASSE 82                                 *
*     D-70178 STUTTGART                                   *
*     GERMANY                                             *
*							  *
*     PHONE:    +49 711 66830-29       (International)    *
*               +49 (0) 711 66830-0    (German)           *
*     FAX:      +49 (0) 711 627760                        *
*							  *
*     E-MAIL:   sales@edalib.com       (English)          *
*               sales@edalib.de        (German)           *
*							  *
*     Internet: http://www.edalib.com  (English)          *
*               http://www.edalib.de   (German)           *
*							  *
***********************************************************
* FIND OVER 40.000 SPICE MODELS AND SUBCIRCUITS IN EDALIB *
* ONE OF THE LARGEST MODEL LIBRARY AVAILABLE WORLDWIDE.   *
***********************************************************

* 3TB25 ; Triac ; Silicon (Si) ; Hutson Industries ; HITO-3
* Level 1
.SUBCKT HUT_3TB25    1  2  3  
*                     |   |   |   
*                     |   | MT1
*                     |   G
*                    MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 31.25
R2 7 6 31.25
R3 2 4 31.25
R4 4 6 2000
*R5 7 8 7.38368E+05
R6 1 7 0.028
.MODEL DMOD D (IS=1E-14 RS=0.0625 BV=200 IBV=0.0001 EG=1.11)
.MODEL NPNMOD npn (IS=1E-12 BF=3 TF=0.0000051 TR=7.285714E-04
+ CJC=3.331317E-10 CJE=1.665659E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1E-12 BF=1 CJE=1.665659E-09 EG=1.11)
* (C) ISD  29.10.1998 13:23:58 Prometheus V2.0.0
.ENDS
 
* 3TB40 ; Triac ; Silicon (Si) ; Hutson Industries ; HITO-3
* Level 1
.SUBCKT HUT_3TB40    1  2  3  
*                     |   |   |   
*                     |   | MT1
*                     |   G
*                    MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 25
R2 7 6 25
R3 2 4 25
R4 4 6 999.9999
*R5 7 8 7.38368E+05
R6 1 7 0.0125
.MODEL DMOD D (IS=1.6E-14 RS=0.05 BV=200 IBV=0.0002 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-12 BF=3 TF=0.0000051 TR=7.285714E-04
+ CJC=4.164147E-10 CJE=2.082073E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-12 BF=1 CJE=2.082073E-09 EG=1.11)
* (C) ISD  29.10.1998 13:23:59 Prometheus V2.0.0
.ENDS

* 2N6073B ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 1
.SUBCKT MOT_2N6073B    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 93.33334
R2 7 6 93.33334
R3 2 4 93.33334
R4 4 6 400000
*R5 7 8 7.38368E+05
R6 1 7 0.1
.MODEL DMOD D (IS=1.6E-15 RS=0.1866667 BV=400 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=2.55E-06 TR=3.642857E-04
+ CJC=8.328293E-10 CJE=4.164146E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=4.164146E-09 EG=1.11)
* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:34:44 Prometheus V2.0.0
.ENDS
 
* 2N6075 ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 1
.SUBCKT MOT_2N6075    1  2  3  
*                      |   |   |   
*                      |   | MT1
*                      |   G
*                     MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 46.66667
R2 7 6 46.66667
R3 2 4 46.66667
R4 4 6 600000
*R5 7 8 7.38368E+05
R6 1 7 0.1
.MODEL DMOD D (IS=1.6E-15 RS=9.333333E-02 BV=600 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=2.55E-06 TR=3.642857E-04
+ CJC=1.665659E-10 CJE=8.328294E-10 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=8.328294E-10 EG=1.11)
* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:34:45 Prometheus V2.0.0
.ENDS
 
* 2N6075A ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 1
.SUBCKT MOT_2N6075A    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 93.33334
R2 7 6 93.33334
R3 2 4 93.33334
R4 4 6 600000
*R5 7 8 7.38368E+05
R6 1 7 0.1
.MODEL DMOD D (IS=1.6E-15 RS=0.1866667 BV=600 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=2.55E-06 TR=3.642857E-04
+ CJC=4.996976E-10 CJE=2.498488E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=2.498488E-09 EG=1.11)
* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:34:46 Prometheus V2.0.0
.ENDS
 
* 2N6075B ; Triac ; Silicon (Si) ; Motorola ; TO-225AA
* Level 1
.SUBCKT MOT_2N6075B    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 93.33334
R2 7 6 93.33334
R3 2 4 93.33334
R4 4 6 600000
*R5 7 8 7.38368E+05
R6 1 7 0.1
.MODEL DMOD D (IS=1.6E-15 RS=0.1866667 BV=600 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=2.55E-06 TR=3.642857E-04
+ CJC=8.328293E-10 CJE=4.164146E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=4.164146E-09 EG=1.11)
* DATASHEET/DATABOOK: Motorola DL137, Rev.4, Q4/92
* VERSION: 2.0/0
* (C) ISD  04.11.1998 16:34:47 Prometheus V2.0.0
.ENDS

* BT134-600D ; Triac ; Silicon (Si) ; Philips ; SOT-82
* Level 1
.SUBCKT PHI_BT134_600D    1  2  3  
*                          |   |   |   
*                          |   | MT1
*                          |   G
*                         MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 150
R2 7 6 150
R3 2 4 150
R4 4 6 12000
*R5 7 8 7.38368E+05
R6 1 7 4.000001E-02
.MODEL DMOD D (IS=1.6E-15 RS=0.3 BV=600 IBV=0.00005 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=1.803347E-06 TR=2.57621E-04
+ CJC=1.665659E-09 CJE=8.328294E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=8.328294E-09 EG=1.11)
* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  21.11.98 18:54:43 Prometheus V2.0.0
.ENDS
 
* BT134-600E ; Triac ; Silicon (Si) ; Philips ; SOT-82
* Level 1
.SUBCKT PHI_BT134_600E    1  2  3  
*                          |   |   |   
*                          |   | MT1
*                          |   G
*                         MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 100
R2 7 6 100
R3 2 4 100
R4 4 6 12000
*R5 7 8 7.38368E+05
R6 1 7 4.000001E-02
.MODEL DMOD D (IS=1.6E-15 RS=0.2 BV=600 IBV=0.00005 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=1.803347E-06 TR=2.57621E-04
+ CJC=2.498488E-10 CJE=1.249244E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=1.249244E-09 EG=1.11)
* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/1
* (C) ISD  21.11.98 18:54:43 Prometheus V2.0.0
.ENDS

* BTA04-400A ; Triac ; Silicon (Si) ; SGS-Thomson ; TO-220AB
* Level 1
.SUBCKT SGS_BTA04_400A    1  2  3  
*                          |   |   |   
*                          |   | MT1
*                          |   G
*                         MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 60
R2 7 6 60
R3 2 4 60
R4 4 6 400000
*R5 7 8 7.38368E+05
R6 1 7 2.727272E-02
.MODEL DMOD D (IS=1.6E-15 RS=0.12 BV=400 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=0.0000034 TR=4.857143E-04
+ CJC=2.082073E-09 CJE=1.041037E-08 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=1.041037E-08 EG=1.11)
* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/0
* (C) ISD  17.11.98 15:20:45 Prometheus V2.0.0
.ENDS
 
* BTA04-400D ; Triac ; Silicon (Si) ; SGS-Thomson ; TO-220AB
* Level 1
.SUBCKT SGS_BTA04_400D    1  2  3  
*                          |   |   |   
*                          |   | MT1
*                          |   G
*                         MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 100
R2 7 6 100
R3 2 4 100
R4 4 6 400000
*R5 7 8 7.38368E+05
R6 1 7 2.727272E-02
.MODEL DMOD D (IS=1.6E-15 RS=0.2 BV=400 IBV=0.000001 EG=1.11)
.MODEL NPNMOD npn (IS=1.6E-13 BF=3 TF=0.0000034 TR=4.857143E-04
+ CJC=1.249244E-09 CJE=6.24622E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=1.6E-13 BF=1 CJE=6.24622E-09 EG=1.11)
* DATASHEET/DATABOOK: SCRs & TRIACs Databook 2nd Edition 1991
* VERSION: 2.0/0
* (C) ISD  17.11.98 15:20:45 Prometheus V2.0.0
.ENDS

* T0505BH ; Triac ; Silicon (Si) ; TAG Semiconductors ; TO-220
* Level 1
.SUBCKT TAG_T0505BH    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 500
R2 7 6 500
R3 2 4 500
R4 4 6 400000
*R5 7 8 7.38368E+05
R6 1 7 8.666667E-02
.MODEL DMOD D (IS=2E-15 RS=1 BV=200 IBV=0.0000005 EG=1.11)
.MODEL NPNMOD npn (IS=2E-13 BF=3 TF=1.945251E-06 TR=2.778931E-04
+ CJC=4.164147E-10 CJE=2.082073E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=2E-13 BF=1 CJE=2.082073E-09 EG=1.11)
* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/5
* (C) ISD  30.11.98 13:50:19 Prometheus V2.0.0
.ENDS
 
* T0505BM ; Triac ; Silicon (Si) ; TAG Semiconductors ; MICRO-MINI
* Level 1
.SUBCKT TAG_T0505BM    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 500
R2 7 6 500
R3 2 4 500
R4 4 6 400000
*R5 7 8 7.38368E+05
R6 1 7 8.666667E-02
.MODEL DMOD D (IS=2E-15 RS=1 BV=200 IBV=0.0000005 EG=1.11)
.MODEL NPNMOD npn (IS=2E-13 BF=3 TF=1.945251E-06 TR=2.778931E-04
+ CJC=4.164147E-10 CJE=2.082073E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=2E-13 BF=1 CJE=2.082073E-09 EG=1.11)
* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/2
* (C) ISD  30.11.98 13:50:19 Prometheus V2.0.0
.ENDS
 
* T0505DH ; Triac ; Silicon (Si) ; TAG Semiconductors ; TO-220
* Level 1
.SUBCKT TAG_T0505DH    1  2  3  
*                       |   |   |   
*                       |   | MT1
*                       |   G
*                      MT2
*
Q1 5 4 3 NPNMOD OFF
Q2 5 6 7 NPNMOD OFF
Q3 5 4 2 NPNMOD .3 OFF
Q4 6 5 3 PNPMOD OFF
Q5 4 5 7 PNPMOD OFF
D1 4 5 DMOD OFF
D2 6 5 DMOD OFF
R1 4 3 500
R2 7 6 500
R3 2 4 500
R4 4 6 800000
*R5 7 8 7.38368E+05
R6 1 7 8.666667E-02
.MODEL DMOD D (IS=2E-15 RS=1 BV=400 IBV=0.0000005 EG=1.11)
.MODEL NPNMOD npn (IS=2E-13 BF=3 TF=1.945251E-06 TR=2.778931E-04
+ CJC=4.164147E-10 CJE=2.082073E-09 EG=1.11)
.MODEL PNPMOD PNP (IS=2E-13 BF=1 CJE=2.082073E-09 EG=1.11)
* STATUS: Obsolete
* DATASHEET/DATABOOK: Tag Semiconductor 1985/86
* VERSION: 2.0/2
* (C) ISD  30.11.98 13:50:19 Prometheus V2.0.0
.ENDS
 
